US07767716B2
An aqueous solution (750 ml) of 85 g of NaClO2 and 90 g of NaH2PO4 is added dropwise with cooling and stirring to 120 g of 4-benzyloxy-2-ethylbenzaldehyde, dissolved in 1 l of DMSO, during which the temperature should not rise above 35° C. The mixture is stirred at RT for a further 3 h, and the precipitate formed is filtered off with suction. The solid is then dissolved in 600 ml of EtOAc, dried and re-evaporated. The residue is crystallised from (Me2CH)2O, giving 4-benzyloxy-2-ethylbenzoic acid; yield 96.2 g (75%); m.p. 132-133°.

reactant | NaClO2 | 750 ml, 85 g | [O-]Cl=O.[Na+]
reactant | 4-benzyloxy-2-ethylbenzaldehyde | 120 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)CC | C16H16O2
solvent | DMSO | 1 l | CS(=O)C | C2H6OS
product | 4-benzyloxy-2-ethylbenzoic acid | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)CC | C16H16O3
